US08293768B2
Synthesis of N-((1H-benzo[d]imidazol-2-yl)methyl)-5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with (1H-benzo[d]imidazol-2-yl)methanamine dihydrochloride, the title compound was obtained as a colorless solid in 80% yield: mp 265-267° C.; 1H NMR (300 MHz, DMSO-d6) δ 12.19 (br s, 1H), 8.23 (t, J=5.5 Hz, 1H), 7.54-7.46 (m, 2H), 7.38-7.31 (m, 2H), 7.24-7.10 (m, 4H), 6.25 (s, 1H), 4.60 (d, J=5.5 Hz, 2H), 4.39 (s, 2H), 3.87-3.78 (m, 2H), 3.48-3.39 (m, 2H), 2.42 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 163.1, 159.9, 155.5, 152.5, 142.9, 139.2, 132.9 (d, JC-F=3.0 Hz), 129.9 (d, JC-F=8.2 Hz), 121.3, 120.0, 115.3 (d, JC-F=21.2 Hz), 112.1, 46.3, 42.5, 41.3, 37.7, 15.8; MS (ES+) m/z 464.4 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | (1H-benzo[d]imidazol-2-yl)methanamine dihydrochloride | Cl.Cl.N1C(=NC2=C1C=CC=C2)CN
product | N-((1H-benzo[d]imidazol-2-yl)methyl)-5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamide | 80% yield | N1C(=NC2=C1C=CC=C2)CNC(=O)C=2SC(=CC2C)N2C(N(CC2)CC2=CC=C(C=C2)F)=O | C24H22FN5O2S
